US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 17, using 2.00 g (8.19 mmol) of 4-amino-1-(3-phenylpropyl)-5-imidazolecarboxamide prepared in the same manner as in Example 114 and nicotinic acid instead of 3-pyridylacetic acid hydrochloride to obtain crude 1-(3-phenylpropyl)-4-(3-pyridylcarbonylamino)-5-imidazolecarboxamide.

reactant | 4-amino-1-(3-phenylpropyl)-5-imidazolecarboxamide | 8.19 mmol, 2.00 g | NC=1N=CN(C1C(=O)N)CCCC1=CC=CC=C1 | C13H16N4O
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
product | 1-(3-phenylpropyl)-4-(3-pyridylcarbonylamino)-5-imidazolecarboxamide | C1(=CC=CC=C1)CCCN1C=NC(=C1C(=O)N)NC(=O)C=1C=NC=CC1 | C19H19N5O2
